2145-01-26 07:08:00 Physician Resident Progress Note
Chief Complaint: 65F w history morbid obesity, hypothyroidism, DM, PE
   on anticoagulation, who presented on [**2145-1-22**] with RLE pain and SOB.
   Treated with azithro and started on heparin for subtherapeutic INR.
   On floor, pt with desaturations/somnolence and found to be taking her
   BIPAP off overnight with SaO2=40%.
   24 Hour Events:
 EKG - At [**2145-1-25**] 09:33 PM - atrial fibrillation.
   [**2145-1-25**]
   - BNP 600-->6000, given 40 lasix IV x2
   - Sats okay while mask on
   - ABG drawn 7.31, 56, 69 (on mask).
   - Third set of cardiac enzymes to be drawn in morning.
   - EKG shows atrial fibrillation.
   - Hypoxia likely due to right CHF, PE (?), OSA.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsCiprofloxacin
   Shortness of br
   Cortisporin (Topical) (Neomy Sulf/Polymyx B Sulf/Hc)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Levofloxacin
   Rash
   eye redne
   Sertraline
   Hives;
   Ceftriaxone
   Rash;
   Adhesive Tape (Topical)
   Unknown; paper
   Keflex (Oral) (Cephalexin Monohydrate)
   Bee Sting Kit
   Anaphylaxis; be
   Sarna (Topical) (Menthol/Camphor)
   Hives; Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2145-1-25**] 11:00 PM
   Lorazepam (Ativan) - [**2145-1-26**] 03:04 AM
   Metoprolol - [**2145-1-26**] 05:30 AM
   Other medications:
   Flowsheet Data as of  [**2145-1-26**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 112 (85 - 112) bpm
   BP: 122/85(91) {110/54(67) - 140/109(116)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    997 mL
                                                                     65 mL
   PO:
             TF:
   IVF:
                                                                    997 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  1,438 mL
                                                                  1,550 mL
   Urine:
                                                                  1,438 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -441 mL
                                                                 -1,485 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   SpO2: 98%
   ABG: 7.31/56/69//0
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   CV: Radial pulses intact. Heart sonds difficult to assess given
   habitus. 2+ edema in LE.
   Resp: difficult to assess given habitus.
   GI: abdomen soft, obese, nontender.
   Neurologic: Responds to: commands. Able to answer yes/no questions by
   nodding. Pt less somnolent than last night.
   Labs / Radiology
   228 K/uL
   10.6 g/dL
   32.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2145-1-25**]  08:23 PM
                             [**2145-1-25**]  10:44 PM
                             [**2145-1-26**]  05:04 AM
   WBC
   7.2
   Hct
   32.4
   Plt
   228
   TropT
   0.02
   TCO2
   30
   Chemistry
   [1][image003.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [2][**2145-1-26**] 05:04AM
                                   159*[1]
                                     29*
                                    1.4*
                                     138
                                     4.9
                                     102
                                     23
                                     18
   [3][image003.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Ct
                                   INR(PT)
   [4][**2145-1-26**] 05:04AM
   228
   [5][**2145-1-26**] 05:04AM
                                    30.7*
                                    72.4*
   3.1*
   [6][image003.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [7][**2145-1-26**] 05:04AM
   599*[1]
   [8][image004.gif]   CPK ISOENZYMES
                                    CK-MB
                                   cTropnT
                                   proBNP
   [9][**2145-1-26**] 05:04AM
                                     PND
                                     PND
   [10][**2145-1-25**] 08:23PM
                                      4
                                  0.02*[1]
   [11][**2145-1-25**] 09:05AM
                                      5
                                   0.01[1]
                                  5977*[2]
   [12][image003.gif]   CHEMISTRY
                                   TotProt
                                   Albumin
                                   Globuln
                                   Calcium
                                    Phos
                                     Mg
                                   UricAcd
                                    Iron
   [13][**2145-1-26**] 05:04AM
   8.3*
                                     3.9
                                     1.9
   Imaging: Final Report
   REASON FOR EXAMINATION: Acute hypoxemia.
   Portable AP chest radiograph was compared to [**2145-1-22**].
   The current study was obtained with significant motion artifacts
   preventing
   from precise comparison with the prior study, but the impression is
   that there
   is increased bilateral perihilar vascular engorgement with potentially
   present
   bilateral perihilar opacities, findings that are worrisome for interval
   progression of pulmonary edema, currently interstitial. Repeated
   radiograph is highly recommended. Bibasal atelectases are present, and
   small amount of pleural effusion cannot be excluded. Cardiomegaly and
   prominence of the main pulmonary artery are unchanged and are
   consistent with pulmonary hypertension.
   DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5905**]
   Approved: MON [**2145-1-25**] 11:19 PM
   Microbiology: [**2145-1-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2145-1-24**]  URINE URINE CULTURE-FINAL {GRAM POSITIVE BACTERIA}
   INPATIENT
   [**2145-1-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2145-1-23**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2145-1-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2145-1-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
 65 year old female with h/o obesity, OSA, PE,
   COPD, DM, hypothyroidism, who presented with SOB and RLE pain now with
   worsening hypoxia, hypercarbia, and somnolence.
   1.       Hypoxic and hypercarbic respiratory failure
 likely
   multifactorial given patient
s obesity (restrictive lung disease), OSA
   (noncompliance on BIPAP), history of PE. Since admission, pt treated
   with azithro for bronchitis.
           Latest ABG indicates respiratory acidosis.  Causes of
   respiratory falure include:
           Infection, PE, CHF, MI, OSA.
   - discontinue azithro (patient has completed 5 day course)
   - broaden ABX coverage to treat HAP (vanc/cefepime) if clinical
   condition deteriorates or becomes febrile
   - continue IV lasix 40mg for goal -2L for today to treat right sided
   heart failure
   - start lasix drip
   - continue ROMI with enzymes
   - repeat echocardiogram
   - titrate BIPAP settings for best ventilation
   - calculate urine anion gap
   - ativan PRN anxiety
   2.       OBSTRUCTIVE LUNG DISEASE
 patient has an allergist who
   reported asthma
   - continue advair, monteleukast as above
   3.       PE - pt with history of PE and initial presentation clinically
   concerning for PE
   -          discontinue heparin (patient has been in therapeutic INR
   range of [**1-20**] for 24 hours)
   -          restart coumadin tomorrow (INR today was 3.1)
   4.       OSA
   - continue BIPAP as above
   5.       Anemia
 baseline HCT 30-38. Last iron studies in [**2141**] with
   normal ferritin and iron. MCV is 107, suggesting either B12 or folate
   deficiency.
   - continue home iron.
   - followup B12 and folate levels
   6.       CKD
 likely from DM and HTN. Baseline 1.3-1.8.
   - monitor I/Os
   - avoid nephrotoxins
   7.       Chronic pain
   - continue home pain meds once respiratory status improves
   8.       Type 2 DM
   - HISS while in house with DM diet, FS QID.
   9.       Hyperlipidemia
   - continue home statin
   10.    Hypothyroidism
   - continue home levothyroxine
   11.    Hypertension
   -          change home metoprolol to more frequent dosing (1.5mg Q6H)
   12.    Atrial Fibrillation
 patient has history of AFib
   - continue metoprolol and warfarin for rate control and
   anticoagulation.
   ICU Care
   Nutrition: NPO until mental status clears.
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-1-25**] 03:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication:  patient
   Code status: full (discussed)
   Disposition: ICU until respiratory status normalizes
   12:01
References
   1. javascript:command('LCBA','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   3. javascript:command('LHBI','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   6. javascript:command('LCBD','expand')
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   8. javascript:command('LCBG','expand')
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
  12. javascript:command('LCBI','expand')
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);

2145-01-27 07:43:00 Physician Resident Progress Note
Chief Complaint: 65F with morbid obesity, hypothyroid, DM, PE, who
   presented on [**2145-1-22**] with RLE pain and SOB.  Pt bridged into therapeutic
   INR with heparin and warfarin. On floor, pt desaturated and became
   somnolent after taking her BIPAP off while sleeping.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2145-1-26**] 02:30 PM
 NON-INVASIVE VENTILATION - START [**2145-1-26**] 06:00 PM
 SPUTUM CULTURE - At [**2145-1-26**] 09:15 PM
   [**1-26**]:
   - During the day she desated to 70s; she improved (with improved blood
   gases and more arousable) on NIPPV.
   - ECHO: mild LVH, EF 55%, no intracardiac shunt
   - D/c'd abx, heparin gtt, held coumadin
   History obtained from Patient
   Allergies:
   History obtained from PatientCiprofloxacin
   Shortness of br
   Cortisporin (Topical) (Neomy Sulf/Polymyx B Sulf/Hc)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Levofloxacin
   Rash
   eye redne
   Sertraline
   Hives;
   Ceftriaxone
   Rash;
   Adhesive Tape (Topical)
   Unknown; paper
   Keflex (Oral) (Cephalexin Monohydrate)
   Bee Sting Kit
   Anaphylaxis; be
   Sarna (Topical) (Menthol/Camphor)
   Hives; Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-26**] 08:00 AM
   Furosemide (Lasix) - [**2145-1-26**] 01:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-27**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 91 (82 - 129) bpm
   BP: 110/99(104) {100/46(19) - 124/99(360)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    878 mL
                                                                    135 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    398 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  3,425 mL
                                                                  1,130 mL
   Urine:
                                                                  3,425 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,547 mL
                                                                   -995 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (380 - 692) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.29/66/112/30/2
   Ve: 6.6 L/min
   PaO2 / FiO2: 280
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
                                    AADO2
                                   REQ O2
                                   Intubat
                                   Comment
   [2][**2145-1-27**] 04:17AM
                                     ART
   112*
                                   66*[1]
                                    7.29*
                                     33*
                                      2
   [3][**2145-1-27**] 12:43AM
                                     ART
   92
                                     59*
                                    7.28*
                                     29
                                      0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   265 K/uL
   10.6 g/dL
   150 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   27 mg/dL
   101 mEq/L
   140 mEq/L
   33.8 %
   12.1 K/uL
        [image003.jpg]
                             [**2145-1-25**]  08:23 PM
                             [**2145-1-25**]  10:44 PM
                             [**2145-1-26**]  05:04 AM
                             [**2145-1-26**]  01:10 PM
                             [**2145-1-26**]  04:45 PM
                             [**2145-1-26**]  05:37 PM
                             [**2145-1-26**]  07:51 PM
                             [**2145-1-27**]  12:43 AM
                             [**2145-1-27**]  03:54 AM
                             [**2145-1-27**]  04:17 AM
   WBC
   7.2
   12.1
   Hct
   32.4
   33.8
   Plt
   228
   265
   Cr
   1.4
   1.4
   1.4
   TropT
   0.02
   0.02
   TCO2
   30
   32
   33
   31
   29
   33
   Glucose
   159
   152
   150
   Other labs: PT / PTT / INR:44.6/43.5/4.8, CK / CKMB /
   Troponin-T:599/4/0.02, Differential-Neuts:84.0 %, Band:3.0 %, Lymph:8.0
   %, Mono:2.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
                                    Atyps
                                    Metas
                                   Myelos
   [4][**2145-1-26**] 05:04AM
                                     84*
                                      3
                                     8*
                                      2
                                      3
                                      0
                                      0
                                      0
                                      0
   [5][image001.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Ct
                                   INR(PT)
   [6][**2145-1-27**] 03:54AM
   265
   Source: Line-aline
   [7][**2145-1-27**] 03:54AM
                                  44.6*[1]
                                    43.5*
   4.8*
   [8][image004.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [9][**2145-1-27**] 03:54AM
                                   150*[1]
                                     27*
                                    1.4*
                                     140
                                     4.1
                                     101
                                     30
                                     13
   Source: Line-aline
   [10][**2145-1-26**] 05:37PM
                                   152*[1]
                                     27*
                                    1.4*
                                     138
                                     4.1
                                     100
                                     28
                                     14
   [11][**2145-1-26**] 05:04AM
                                   159*[1]
                                     29*
                                    1.4*
                                     138
                                     4.9
                                     102
                                     23
                                     18
   Microbiology: [**2145-1-26**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL; FUNGAL CULTURE-PRELIMINARY INPATIENT - contaminated by
   upper airway secretions. Recommend repeat.
   [**2145-1-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2145-1-24**]  URINE URINE CULTURE-FINAL {GRAM POSITIVE BACTERIA}
   INPATIENT
   Assessment and Plan
 65 year old female with h/o obesity, OSA, PE,
   COPD, DM, hypothyroidism, who presented with SOB and RLE pain now with
   worsening hypoxia, hypercarbia, and somnolence.
   1.       Hypoxic and hypercarbic respiratory failure
 likely
   multifactorial given patient
s obesity (restrictive lung disease), OSA
   (noncompliance on BIPAP). ABGs show respiratory acidosis without
   adequate metabolic compensation
 although HCO3 now increased to 30.
   Possible causes of respiratory falure include: OSA, developing CHF,
   infection. Pt ruled out for MI by serial enzymes and echo was normal.
   - decrease IV lasix to 4mg/hr or goal -1L for today given her elevated
   BNP and edema
   - transition to bolus lasix
   - titrate BIPAP settings for best ventilation
   - continue gentle ativan PRN
   - continue daily ABG via arterial line
   - followup sputum cultures from yesterday
   - repeat sputum cultures today given productive cough
   - CXR today given productive cough
   2.       Atrial Fibrillation
 patient has history of Afib controlled
   on metoprolol.  Periodically going into Afib in unit.
   - give 5mg metoprolol IV push now
   - discontinue 5mg IV Q6H metoprolol and start home regimen of 25mg PO
   TID (if unsuccessful at controlling rate, consider esmolol or
   diltiazem)
   - continue warfarin for anticoagulation (goal INR [**1-20**]).
   3.       PE - pt with history of PE and initial presentation clinically
   concerning for PE
   -          discontinue heparin (patient has been in therapeutic INR
   range of [**1-20**] for 24 hours)
   -          hold coumadin today (INR today was 4.8). No need to reverse
   her with vitamin K if not bleeding.
   4.       OBSTRUCTIVE LUNG DISEASE
 patient has an allergist who
   reported asthma
   - continue advair, monteleukast as above
   5.       OSA
   - continue BIPAP as above
   6.       Hypertension
   - continue home metoprolol 25mg TID
   7.       Anemia
  MCV is 107, however B12 and Folate levels were above
   reference range.  Possible cause of anemia is hypothyroidism.
   - continue to follow blood counts
   - continue home iron.
   8.       CKD
 likely from DM and HTN.
   - monitor I/Os
   - avoid nephrotoxins
   9.       Chronic pain
   - continue home pain meds once respiratory status improves
   10.    Type 2 DM
   - HISS while in house with DM diet, FS QID.
   11.    Hyperlipidemia
   - continue home statin
   12.    Hypothyroidism
   - continue home levothyroxine
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines: 22 Gauge - [**2145-1-26**] 09:30 AM, 18 Gauge - [**2145-1-26**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   Communication: Patient
   Code status: Full
   Disposition: ICU for now. Start screening for LTAC (with ventilation
   capabilities)
   14:03
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   5. javascript:command('LHBI','expand')
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   8. javascript:command('LCBA','expand')
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);

2145-01-28 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2145-1-27**] 08:51 AM
 NON-INVASIVE VENTILATION - START [**2145-1-27**] 08:51 AM
 NON-INVASIVE VENTILATION - STOP [**2145-1-27**] 11:42 PM
   [**1-27**]:
   -Yesterday on NC during day and on mask at night.
   -Stopped lasix gtt give 40 IV lasix ONCE
   -Negative 5L today and her creatinine is better. [**Doctor Last Name **]-[**Last Name (un) **]!
   -Increased her metoprolol to 37.5mg PO TID because of persistent
   tachycardia
   Allergies:
   Ciprofloxacin
   Shortness of br
   Cortisporin (Topical) (Neomy Sulf/Polymyx B Sulf/Hc)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Levofloxacin
   Rash
   eye redne
   Sertraline
   Hives;
   Ceftriaxone
   Rash;
   Adhesive Tape (Topical)
   Unknown; paper
   Keflex (Oral) (Cephalexin Monohydrate)
   Bee Sting Kit
   Anaphylaxis; be
   Sarna (Topical) (Menthol/Camphor)
   Hives; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2145-1-27**] 12:31 PM
   Furosemide (Lasix) - [**2145-1-27**] 08:10 PM
   Pantoprazole (Protonix) - [**2145-1-28**] 02:00 AM
   Other medications:
   Flowsheet Data as of  [**2145-1-28**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 113 (98 - 129) bpm
   BP: 143/78(102) {102/57(72) - 149/118(120)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    378 mL
                                                                    136 mL
   PO:
             TF:
   IVF:
                                                                    378 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  5,570 mL
                                                                  1,300 mL
   Urine:
                                                                  5,570 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,192 mL
                                                                 -1,165 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 90%
   ABG: 7.41/53/82.[**Numeric Identifier 96**]/34/6
   PaO2 / FiO2: 207
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
                                    AADO2
                                   REQ O2
                                   Intubat
                                   Comment
   [2][**2145-1-27**] 03:00PM
                                     ART
   4
                                     83*
                                     53*
                                    7.41
                                     35*
                                      6
   NOT INTUBA[1]
                                NASAL [**Last Name (un) **][2]
   [3][**2145-1-27**] 10:34AM
                                     ART
   73*
                                     50*
                                    7.37
                                     30
                                      1
   NOT INTUBA[1]
   [4][**2145-1-27**] 04:17AM
                                     ART
   112*
                                   66*[3]
                                    7.29*
                                     33*
                                      2
   [5][**2145-1-27**] 12:43AM
                                     ART
   92
                                     59*
                                    7.28*
                                     29
                                      0
   Physical Examination
   Patient more responsive today.  More alert and not falling asleep.  Pt
   shows signs of delirium
 shaky voice, appears scared, not oriented to
   place or time.
   Labs / Radiology
   283 K/uL
   10.9 g/dL
   154 mg/dL
   1.1 mg/dL
   34 mEq/L
   4.2 mEq/L
   23 mg/dL
   96 mEq/L
   142 mEq/L
   32.9 %
   12.2 K/uL
        [image003.jpg]
                             [**2145-1-26**]  04:45 PM
                             [**2145-1-26**]  05:37 PM
                             [**2145-1-26**]  07:51 PM
                             [**2145-1-27**]  12:43 AM
                             [**2145-1-27**]  03:54 AM
                             [**2145-1-27**]  04:17 AM
                             [**2145-1-27**]  10:34 AM
                             [**2145-1-27**]  02:49 PM
                             [**2145-1-27**]  03:00 PM
                             [**2145-1-28**]  03:34 AM
   WBC
   12.1
   12.2
   Hct
   33.8
   32.9
   Plt
   265
   283
   Cr
   1.4
   1.4
   1.3
   1.1
   TCO2
   33
   31
   29
   33
   30
   35
   Glucose
   152
   150
   149
   154
   Other labs: PT / PTT / INR:36.1/58.7/3.7, CK / CKMB /
   Troponin-T:599/4/0.02, Differential-Neuts:84.0 %, Band:3.0 %, Lymph:8.0
   %, Mono:2.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   [6][image004.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [7][**2145-1-28**] 03:34AM
                                    12.2*
                                    3.15*
                                    10.9*
                                    32.9*
                                    104*
                                    34.7*
                                    33.3
                                    14.2
                                     283
   Source: Line-a-line
   [8][**2145-1-27**] 03:54AM
                                   12.1*#
                                    3.17*
                                    10.6*
                                    33.8*
                                    107*
                                    33.4*
                                    31.3
                                    14.4
                                     265
   Source: Line-aline
   [9][**2145-1-26**] 05:04AM
                                     7.2
                                    3.03*
                                    10.6*
                                    32.4*
                                    107*
                                    35.0*
                                    32.8
                                    14.2
                                     228
   [10][image001.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Ct
                                   INR(PT)
   [11][**2145-1-28**] 03:34AM
   283
   Source: Line-a-line
   [12][**2145-1-28**] 03:34AM
                                    36.1*
                                    58.7*
   3.7*
   [13][image004.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [14][**2145-1-28**] 03:34AM
                                   154*[1]
                                     23*
                                     1.1
                                     142
                                     4.2
                                     96
                                     34*
                                     16
   Source: Line-a-line
   [15][**2145-1-27**] 02:49PM
                                   149*[1]
                                     26*
                                    1.3*
                                     142
                                     3.5
                                     100
                                     32
                                     14
   Assessment and Plan
   Assessment and Plan
 65 year old female with h/o obesity, OSA, PE,
   COPD, DM, hypothyroidism, who presented with SOB and RLE pain now with
   worsening hypoxia, hypercarbia, and somnolence.
   1.       Hypoxic and hypercarbic respiratory failure
 likely
   multifactorial given patient
s obesity (restrictive lung disease), OSA
   (noncompliance on BIPAP). ABGs show respiratory acidosis without
   adequate metabolic compensation
 although HCO3 now increased to 30.
   Possible causes of respiratory falure include: OSA, developing CHF,
   infection. Pt ruled out for MI by serial enzymes and echo was normal.
   Pt has productive cough.
   - give 80mg PO lasix [**Hospital1 **] (patient responded to lasix at 40mg IV)
   - titrate BIPAP settings for best ventilation.  Place pt on NC today as
   tolerated.
   - continue gentle ativan PRN
   - continue daily ABG via arterial line
   - followup sputum cultures
   - followup CXR given productive cough
   2.       Atrial Fibrillation
 patient has history of Afib controlled
   on metoprolol.  Periodically going into Afib. Pt still tachycardic.
   - increase metoprolol to 50.0mg PO TID (esmolol not appropriate because
   it is only available IV)
   - consider adding esmolol for further rate control
   - hold warfarin today for anticoagulation (current INR 3.7, goal INR
   [**1-20**]).
   3.       Altered Mental Status
 patient not at baseline mental status
   according to PCP and nurses who have cared for her previously.  Most
   likely due to delirium from hospital stay (passive variant).
   - Gentle reorientation (talking, getting her out of bed)
   4.       OBSTRUCTIVE LUNG DISEASE
 patient has an allergist who
   reported asthma
   - continue advair, monteleukast as above
   5.       OSA
   - continue BIPAP as above
   6.       Hypertension
   - metoprolol as above
   7.       Anemia
   - continue to follow blood counts
   - continue home iron.
   8.       CKD
 likely from DM and HTN.  Improving as evidenced by
   decreasing Cre.  Perfusion improving after fluid reduction.
   - monitor I/Os
   - avoid nephrotoxins
   9.       Chronic pain
   - continue home pain meds once respiratory status improves
   10.    Type 2 DM
   - HISS while in house with DM diet, FS QID
   11.    Hyperlipidemia
   - continue home statin
   12.    Hypothyroidism
   - continue home levothyroxine
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  HISS
   Lines: 22 Gauge - [**2145-1-26**] 09:30 AM, 18 Gauge - [**2145-1-26**] 09:00 PM,
   Arterial Line - [**2145-1-27**] 07:00 AM
   Prophylaxis:  DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin),
   Stress ulcer: Protonix
   Communication:  Patient
   Code status: Full code
   Disposition:Transfer to rehab with goals : Cr stability, HR and BP
   control, Afib control, continued weight loss via diuresis.
   14:31
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22);
   6. javascript:command('LHBC','expand')
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
  10. javascript:command('LHBI','expand')
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
  13. javascript:command('LCBA','expand')
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);